US07091228B2
A mixture of diethyl 2-[2-(3-methyl-4′-nitro-1,1′-biphenyl-4-yl)-2-oxoethyl]-2-(2-phenylethyl)malonate (4.87 g, 9.41 mmol), 1 N aqueous sodium hydroxide (10.4 mL, 10.40 mmol), ethanol (10 mL), and acetone (10 mL) was stirred at 50° C. overnight. The mixture was concentrated and the residue was dissolved in dimethoxyethane (20 mL), and stirred at 80° C. overnight. The mixture was concentrated, and the residue was dissolved in ethyl acetate (30 mL). The solution was washed with water (2×5 mL), dried over magnesium sulfate, and concentrated under reduced pressure. The material obtained was purified by flash chromatography (10:90 ethyl acetate/hexane) to give ethyl 4-(3-methyl-4′-nitro-1,1′-biphenyl-4-yl)-4-oxo-2-(2-phenylethyl)butanoate as a light yellow oil (3.53 g, 99% yield). LC-MS ret. time 4.18 min, m/z 446.0 (MH+); 1H NMR (CDCl3) δ: 1.33 (t, 3H), 1.83–2.17 (m, 2H), 2.58 (s, 3H), 2.67–2.78 (m, 2H), 3.00 (dd, 1H), 3.14 (m, 1H), 3.49 (dd, 1H), 4.09 (q, 2H), 7.14–7.36 (m, 5H), 7.47–7.55 (m, 2H), 7.72–7.83 (m, 3H), 8.33 (d, 2H).

reactant | diethyl 2-[2-(3-methyl-4′-nitro-1,1′-biphenyl-4-yl)-2-oxoethyl]-2-(2-phenylethyl)malonate | 9.41 mmol, 4.87 g | CC=1C=C(C=CC1C(CC(C(=O)OCC)(C(=O)OCC)CCC1=CC=CC=C1)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C30H31NO7
reactant | sodium hydroxide | 10.40 mmol, 1 N, 10.4 mL | [OH-].[Na+]
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | ethyl 4-(3-methyl-4′-nitro-1,1′-biphenyl-4-yl)-4-oxo-2-(2-phenylethyl)butanoate | 3.53 g, 99% yield | CC=1C=C(C=CC1C(CC(C(=O)OCC)CCC1=CC=CC=C1)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C27H27NO5
